US07319109B2
c) 4-{[3-(2,6-Dichlorophenyl)-5-isopropylisoxazol-4-yl]methoxy}-2-methylphenylamine.
A solution of 3-(2,6-dichlorophenyl)-5-isopropyl-4-[(3-methyl-4-nitrophenoxy)methyl]isoxazole (0.36 g, 0.86 mmol) in ethanol (3 mL) was treated with tni(II)chloride (0.71 g, 3.2 mmol) and refluxed overnight. Water (15 mL) was added and the pH adjusted to 10-11 with solid sodium carbonate. The product was then extracted with chloroform; the combined organic layers were washed with brine, dried over anhydrous magnesium sulfate, filtered, and condensed to a residue which was chromatographed on silica gel using 50% ethyl acetateihexane. Yield=0.24 g. (72%) of 4-{[3-(2,6-dichlorophenyl)-5-isopropylisoxazol-4-yl]methoxy}-2-methylphenylamine.

reactant | 3-(2,6-dichlorophenyl)-5-isopropyl-4-[(3-methyl-4-nitrophenoxy)methyl]isoxazole | 0.86 mmol, 0.36 g | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1COC1=CC(=C(C=C1)[N+](=O)[O-])C)C(C)C | C20H18Cl2N2O4
reactant | Water | 15 mL | O | H2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 4-{[3-(2,6-Dichlorophenyl)-5-isopropylisoxazol-4-yl]methoxy}-2-methylphenylamine | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1COC1=CC(=C(C=C1)N)C)C(C)C | C20H20Cl2N2O2
